US05675013
The 0.82 g (0.0050 moles) of 2,6-dichloropyridine N-oxide and 0.658 g (99%) (0.0050 moles) of 1-octanol was reacted with 0.200 g (0.0050 moles) of ground sodium hydroxide in 8.2 ml of DMSO at 80° C. for 4.5 hours to give 2-chloro-6-octyloxypyridine N-oxide. It was reacted with 0.600 g (0.015 moles) of ground sodium hydroxide at 80° C. for 2.5 hours to give 1-hydroxy-6-octyoxypyridine-2(1H)-one. After cooling, it was added 74 ml of water and was adjusted with 6N HCL to pH 3. The precipitate was filtered and washed with water to give 0.577 g (48%). It was recrystallized from ethanol and hexanes: mp 119°-120° C.

reactant | 2,6-dichloropyridine N-oxide | 0.0050 moles, 0.82 g | ClC1=[N+](C(=CC=C1)Cl)[O-] | C5H3Cl2NO
reactant | 1-octanol | 0.0050 moles, 0.658 g | C(CCCCCCC)O | C8H18O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | 8.2 ml | CS(=O)C | C2H6OS
product | 2-chloro-6-octyloxypyridine N-oxide | ClC1=[N+](C(=CC=C1)OCCCCCCCC)[O-] | C13H20ClNO2
